US07507734B2
(d) 4-[6-Methoxy-5-(3-methyl-1H-indol-2-yl)-pyridazin-3-yl]-2,6-dimethyl-phenol
73.4 μl of 2-chloroaniline and 21 mg of anhydrous magnesium sulfate are suspended in 3 ml dimethylacetamide. 100 mg of 1-[6-(4-Hydroxy-3,5-dimethyl-phenyl)-3-methoxy-pyridazin-4-yl]-propan-1-one and 31.4 mg acetic acid are added and the reaction is degassed with argon. 96 mg of tripotassium phosphate and 35.7 mg of bis(tri-tert-butylphosphine) palladium (0) are added and the reaction is degassed with argon. The reaction is heated to 140° C. for 16 h. The solution is filtered. The product is purified by preparative RP-HPLC eluting with a gradient of 0-100% acetonitrile in water (+0.01% trifluoroacetic acid). Yield 35 mg.

reactant | 2-chloroaniline | 73.4 μl | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | magnesium sulfate | 21 mg | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | 1-[6-(4-Hydroxy-3,5-dimethyl-phenyl)-3-methoxy-pyridazin-4-yl]-propan-1-one | 100 mg | OC1=C(C=C(C=C1C)C1=CC(=C(N=N1)OC)C(CC)=O)C | C16H18N2O3
reactant | acetic acid | 31.4 mg | C(C)(=O)O | C2H4O2
solvent | dimethylacetamide | 3 ml | CC(=O)N(C)C | C4H9NO
product | 4-[6-Methoxy-5-(3-methyl-1H-indol-2-yl)-pyridazin-3-yl]-2,6-dimethyl-phenol | COC1=C(C=C(N=N1)C1=CC(=C(C(=C1)C)O)C)C=1NC2=CC=CC=C2C1C | C22H21N3O2
